US08802137B2
Sample #1. Amikacin sulfate 1.72 kg was dissolved in 23 Liters saline solution (0.9% NaCl) and pH was adjusted to 6.5 by adding necessary amount NaOH. Lipids—98.2 g DPPC and 51.8 g Cholesterol were dissolved in 7 liters ethanol. Liposomes were formed by infusion of lipid solution into amikacin solution at a rate of ˜600 mL/min and under constant stirring. Resulting suspension was then washed to remove ethanol and un-entrapped amikacin by diafiltration using an Amersham Hollow Fiber cartridge 500 kD pore size. The suspension was concentrated to a final volume of ˜3.5 L.

reactant | Amikacin sulfate | 1.72 kg | C1[C@@H]([C@H]([C@@H]([C@H]([C@@H]1NC(=O)[C@H](CCN)O)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)N)O)O)O[C@@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CN)O)O)O)N.OS(=O)(=O)O
reactant | NaCl | [Na+].[Cl-]
reactant | NaOH | [OH-].[Na+]
reactant | DPPC | 98.2 g | CCCCCCCCCCCCCCCC(=O)OC[C@H](COP(=O)([O-])OCC[N+](C)(C)C)OC(=O)CCCCCCCCCCCCCCC | C40H80NO8P
reactant | Cholesterol | 51.8 g | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@@H](O)CC[C@]4(C)[C@H]3CC[C@]12C | C27H46O
solvent | ethanol | 7 liters | C(C)O | C2H6O
product | amikacin | C1[C@@H]([C@H]([C@@H]([C@H]([C@@H]1NC(=O)[C@H](CCN)O)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)N)O)O)O[C@@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CN)O)O)O)N | C22H43N5O13
